US07732604B2
To a 6° C. mixture of 6-bromo-N2-(quinolin-6-ylmethyl)pyrazine-2,3-diamine (16 g, 48 mmol), AcOH (97 mL) and H2O (97 mL) was added NaNO2 (4.0 g, 58 mmol) in H2O (12 mL) dropwise over 15 min. After 1.5 hours, a 1:1 mixture of concentrated sulfuric acid and water (6 mL) was added dropwise. After 1.5 hours, NaNO2 (0.5 g, 7 mmol) in H2O (2 mL) and a 1:1 mixture of concentrated sulfuric acid and water (5 mL) were added. The reaction was allowed to warm to room temperature overnight. The reaction was re-cooled in an ice bath and over a period of 1.5 hours, a 1:1 mixture of concentrated sulfuric acid and water (30 mL) and NaNO2 (1.5 g, 22 mmol) in H2O (5 mL) was added. Aqueous 3.75 M NaOH (210 mL) was added dropwise and the resulting suspension was filtered. The precipitate was washed sequentially with water and ether, then suspended in dichloromethane:ethanol (1:1) and filtered. The filtrate was washed sequentially with 1M aqueous Na2CO3 and brine, dried over Na2SO4, filtered and concentrated by rotary evaporation to afford 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (9.6 g, 58%).

reactant | 6-bromo-N2-(quinolin-6-ylmethyl)pyrazine-2,3-diamine | 48 mmol, 16 g | BrC1=CN=C(C(=N1)NCC=1C=C2C=CC=NC2=CC1)N | C14H12BrN5
reactant | NaNO2 | 58 mmol, 4.0 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | 7 mmol, 0.5 g | N(=O)[O-].[Na+]
reactant | NaNO2 | 22 mmol, 1.5 g | N(=O)[O-].[Na+]
reactant | NaOH | 3.75 M, 210 mL | [OH-].[Na+]
solvent | H2O | 12 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 5 mL | O | H2O
solvent | water | 30 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 6 mL | O | H2O
solvent | H2O | 97 mL | O | H2O
solvent | AcOH | 97 mL | CC(=O)O | C2H4O2
product | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 9.6 g, 58% | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
